US05360909
5 ml of ethanol solution of 1.02 g of hydrazine hydrate were added to 35 ml of ethanol solution of 4.36 g of t-butyl 4-[2-(phthalimido)ethyl]-2-nitrophenoxyacetate and heated under reflux for 2 hours at 100° C. in an argon stream. After cooling, the reaction mixture was filtered through celite, and the filtrate concentrated under reduced pressure. The yellow crystals of t-butyl 4-(2-aminoethyl)-2-nitrophenoxyacetate thus obtained were used in the next reaction without purification.

reactant | hydrazine hydrate | 1.02 g | O.NN
reactant | t-butyl 4-[2-(phthalimido)ethyl]-2-nitrophenoxyacetate | 4.36 g | C1(C=2C(C(N1CCC1=CC(=C(OCC(=O)OC(C)(C)C)C=C1)[N+](=O)[O-])=O)=CC=CC2)=O | C22H22N2O7
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | t-butyl 4-(2-aminoethyl)-2-nitrophenoxyacetate | NCCC1=CC(=C(OCC(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C14H20N2O5
